2188-10-25 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lung cancer
 stg IV mets to liver
   Worsening SOB
   PE
s on CT
   24 Hour Events:
 NASAL SWAB - At [**2188-10-25**] 12:32 AM
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-25**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 72 (68 - 78) bpm
   BP: 125/62(73) {102/47(61) - 139/69(85)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                      0 mL
                                                                    497 mL
   PO:
             TF:
   IVF:
                                                                      0 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    295 mL
   Urine:
   295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Comfortable, no distress
   Hrt rrr
   Lung min wheezing
   Abd benign
   Extrem  trace edema
   Labs / Radiology
   9.7 g/dL
   111 K/uL
   122 mg/dL
   0.9 mg/dL
   28 mEq/L
   2.9 mEq/L
   19 mg/dL
   92 mEq/L
   130 mEq/L
   27.8 %
   2.0 K/uL
        [image002.jpg]
                             [**2188-10-25**]  12:00 AM
   WBC
   2.0
   Hct
   27.8
   Plt
   111
   Cr
   0.9
   TropT
   0.31
   Glucose
   122
   Other labs: PT / PTT / INR:14.3/111.3/1.2, CK / CKMB /
   Troponin-T:98/6/0.31, ALT / AST:[**1-2**], Alk Phos / T Bili:64/0.9,
   Albumin:3.4 g/dL, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Chest CT with L>R PE
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 on IV heparin, will convert to
   lovenox if Hct stable, wean O2
   Lung cancer
 under treatment, follow leukopenia
   COPD
 cont nebs
   Atrial tach
 cont beta blocker
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-10-24**] 11:58 PM
   20 Gauge - [**2188-10-24**] 11:59 PM
   Prophylaxis:
   DVT: on anticoag
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:   35

2188-10-26 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - heparin gtt was changed to lovenox
   - BP low in the 80s, given 250cc NS, metoprolol was held given
   hypotension
   - because of hypotension, didn't call pt out
   - Dr. [**Last Name (STitle) 4197**] (oncologist) and Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] (pulmonologist) were
   updated via email on pt's admission
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-10-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 77 (74 - 90) bpm
   BP: 90/46(56) {69/29(45) - 147/65(113)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,837 mL
                                                                    120 mL
   PO:
                                                                    840 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    877 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    190 mL
   Urine:
                                                                    825 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/37/112/25/4
   PaO2 / FiO2: 320
   Physical Examination
   GEN: Nad, breathing comfortably on nasal cannula
   HEENT: mmm, no OP lesions
   CV: regular, no mrg
   Lungs: clear anteriorly, mild wheezing
   Abd: soft, NTND
   GU: no foley
   EXT: warm, well perfused, negative [**Last Name (un) **]
s sign, no palpable cords, 2+
   pulses bilaterally
   Neuro:  a/o to person, place, time and purpose
   Labs / Radiology
   109 K/uL
   9.6 g/dL
   170 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   95 mEq/L
   130 mEq/L
   27.3 %
   2.0 K/uL
         [image002.jpg]
                             [**2188-10-25**]  12:00 AM
                             [**2188-10-25**]  10:49 AM
                             [**2188-10-25**]  10:58 AM
   WBC
   2.0
   2.0
   Hct
   27.8
   27.3
   Plt
   111
   109
   Cr
   0.9
   1.0
   TropT
   0.31
   0.18
   TCO2
   28
   Glucose
   122
   170
   Other labs:
   PT / PTT / INR:13.5/70.5/1.2, CK / CKMB / Troponin-T:71/4/0.18,
   ALT / AST:[**1-2**], Alk Phos / T Bili:64/0.9, Albumin:3.4 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Micro: MRSA screen pending
   Imaging: none
   Assessment and Plan
   79 Yo F admitted from [**Location (un) 250**] with B PE's, PMH stage 4 nonsmall cell
   lung CA.  Also hyponatremic at 130.
   #.  Pulmonary Emboli:  [**First Name8 (NamePattern2) 54**] [**Location (un) 250**] report, bilateral and multiple,
   though did not send report, so unable to view. Also had bedside echo
   per report that showed mild RV dysfuncion, though pt HD stable
   throughout stay.  No LENI's done. In terms of her risks of developing
   VTE, her NSCLC and avastin gave her significantly higher risks of VTE
   (at least 15% increased risk). Patient last received avastin on [**9-24**].
   - continue lovenox
   - f/u on onc recs on continuation of avastin given bilateral PE
   - Dr. [**Last Name (STitle) 4197**] (oncologist) and Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] (pulmonologist) were
   updated via email on pt's admission
   - start xopenex and spiriva as pt sounds wheezing
   .
   # Anemia:  Hct 27 yesterday, baseline mid- high 30
s.  No e/o
   bleeding.  Maybe chemo effect.
   - get morning lab
   - maintain T & S active
   # NSCLC:  Stage 4 give mets to liver.  Will touch base with Dr.
   [**Last Name (STitle) 4197**] her primary oncologist in morning
   - management per Dr. [**Last Name (STitle) 4197**], Dr. [**Last Name (STitle) 4197**] was updated on patient
   admission
   .
   # H/o Intermittent Atrial Tachycardia:  On atenolol 100mg qd at home
   - held lopressor 50mg [**Hospital1 **] as pt was hypotensive
   - can restart lopressor today if BP good
   - continue to monitor on tele
   .
   # Hyponatremia: most likely hypovolemic hyponatremia as pt appeared dry
   on exam on admission
   - IVF prn
   - continue to monitor
   - send UA and urine lytes
   .
   # Hypotension: BP stable now
   - IVF prn
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2188-10-24**] 11:58 PM
   20 Gauge - [**2188-10-24**] 11:59 PM
   Prophylaxis:
   DVT: on lovenox
   Stress ulcer: not on PPI
   VAP:  none
   Comments:
   Communication:  Comments: [**First Name9 (NamePattern2) 10100**] [**Known lastname 10101**] [**Telephone/Fax (1) 10102**]
   Code status: Full code
   Disposition: transfer to oncology floor if not hypotensive today and am
   hct stable

2188-10-26 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Stable overnight
   Oxygen weaned
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-10-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 92 (74 - 92) bpm
   BP: 141/63(82) {69/29(45) - 147/65(113)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,837 mL
                                                                    125 mL
   PO:
                                                                    840 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    877 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    205 mL
   Urine:
                                                                    825 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.48/37/112/25/4
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   109 K/uL
   170 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   95 mEq/L
   130 mEq/L
   27.3 %
   2.0 K/uL
        [image002.jpg]
                             [**2188-10-25**]  12:00 AM
                             [**2188-10-25**]  10:49 AM
                             [**2188-10-25**]  10:58 AM
   WBC
   2.0
   2.0
   Hct
   27.8
   27.3
   Plt
   111
   109
   Cr
   0.9
   1.0
   TropT
   0.31
   0.18
   TCO2
   28
   Glucose
   122
   170
   Other labs: PT / PTT / INR:13.5/70.5/1.2, CK / CKMB /
   Troponin-T:71/4/0.18, ALT / AST:[**1-2**], Alk Phos / T Bili:64/0.9,
   Albumin:3.4 g/dL, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 on IV heparin, will convert to
   lovenox if Hct stable, wean O2
   Lung cancer
 under treatment, follow leukopenia
   COPD
 cont nebs
   Atrial tach
 cont beta blocker
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-10-24**] 11:58 PM
   20 Gauge - [**2188-10-24**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2188-10-27 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - gave 1L IVF yesterday for UOP, now > 30cc/h
   - called out
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-10-26**] 10:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-27**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 90 (79 - 101) bpm
   BP: 111/39(59) {81/32(51) - 141/63(82)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,740 mL
                                                                     57 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    701 mL
                                                                    425 mL
   Urine:
                                                                    701 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   GEN: Nad, breathing comfortably on nasal cannula
   HEENT: mmm, no OP lesions
   CV: regular, no mrg
   Lungs: clear anteriorly, mild wheezing
   Abd: soft, NTND
   GU: no foley
   EXT: warm, well perfused, negative [**Last Name (un) **]
s sign, no palpable cords, 2+
   pulses bilaterally
   Neuro:  a/o to person, place, time and purpose
   Labs / Radiology
   103 K/uL
   9.5 g/dL
   150 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   27 mg/dL
   95 mEq/L
   131 mEq/L
   27.6 %
   1.7 K/uL
        [image002.jpg]
                             [**2188-10-25**]  12:00 AM
                             [**2188-10-25**]  10:49 AM
                             [**2188-10-25**]  10:58 AM
                             [**2188-10-26**]  09:19 AM
   WBC
   2.0
   2.0
   1.7
   Hct
   27.8
   27.3
   27.6
   Plt
   111
   109
   103
   Cr
   0.9
   1.0
   1.2
   TropT
   0.31
   0.18
   TCO2
   28
   Glucose
   122
   170
   150
   Other labs: PT / PTT / INR:13.6/41.5/1.2, CK / CKMB /
   Troponin-T:71/4/0.18, ALT / AST:[**1-2**], Alk Phos / T Bili:64/0.9,
   Albumin:3.4 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   79 Yo F admitted from [**Location (un) 250**] with B PE's, PMH stage 4 nonsmall cell
   lung CA.  Also hyponatremic at 130.
   #.  Pulmonary Emboli:  [**First Name8 (NamePattern2) 54**] [**Location (un) 250**] report, bilateral and multiple.
   Also had bedside echo per report that showed mild RV dysfuncion, though
   pt HD stable throughout stay.  No LENI's done. In terms of her risks of
   developing VTE, her NSCLC and avastin gave her significantly higher
   risks of VTE (at least 15% increased risk). Patient last received
   avastin on [**9-24**].
   - continue lovenox
   - f/u on onc recs on continuation of avastin given bilateral PE
   - Dr. [**Last Name (STitle) 4197**] (oncologist) and Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] (pulmonologist) were
   updated via email on pt's admission
   - start xopenex and spiriva as pt sounds wheezing
   .
   # Anemia:  Hct 27 yesterday, baseline mid- high 30
s.  No e/o
   bleeding.  Maybe chemo effect.
   - get morning lab
   - maintain T & S active
   # NSCLC:  Stage 4 give mets to liver.  Will touch base with Dr.
   [**Last Name (STitle) 4197**] her primary oncologist in morning
   - management per Dr. [**Last Name (STitle) 4197**], Dr. [**Last Name (STitle) 4197**] was updated on patient
   admission
   .
   # H/o Intermittent Atrial Tachycardia:  On atenolol 100mg qd at home
   - held lopressor 50mg [**Hospital1 **] as pt was hypotensive
   - can restart lopressor today if BP good
   - continue to monitor on tele
   .
   # Hyponatremia: most likely hypovolemic hyponatremia as pt appeared dry
   on exam on admission
   - IVF prn
   - continue to monitor
   - send UA and urine lytes
   .
   # Hypotension: BP stable now
   - IVF prn
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2188-10-24**] 11:58 PM
   20 Gauge - [**2188-10-24**] 11:59 PM
   Prophylaxis:
   DVT: on lovenox
   Stress ulcer: not on PPI
   VAP:  none
   Comments:
   Communication:  Comments: [**First Name9 (NamePattern2) 10100**] [**Known lastname 10101**] [**Telephone/Fax (1) 10102**]
   Code status: Full code
   Disposition: called out to oncology floor yesterday ; awaiting bed
   placement

2188-10-27 13:29:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-10-26**] 10:37 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-27**] 01:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 90 (84 - 107) bpm
   BP: 121/54(72) {91/39(56) - 151/86(95)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,740 mL
                                                                    310 mL
   PO:
                                                                  1,000 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    701 mL
                                                                    870 mL
   Urine:
                                                                    701 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   74 K/uL
   98 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.2 mEq/L
   23 mg/dL
   100 mEq/L
   134 mEq/L
   23.7 %
   1.6 K/uL
        [image002.jpg]
                             [**2188-10-25**]  12:00 AM
                             [**2188-10-25**]  10:49 AM
                             [**2188-10-25**]  10:58 AM
                             [**2188-10-26**]  09:19 AM
                             [**2188-10-27**]  05:39 AM
   WBC
   2.0
   2.0
   1.7
   1.6
   Hct
   27.8
   27.3
   27.6
   23.7
   Plt
   111
   109
   103
   74
   Cr
   0.9
   1.0
   1.2
   1.1
   TropT
   0.31
   0.18
   TCO2
   28
   Glucose
   122
   170
   150
   98
   Other labs: PT / PTT / INR:15.0/40.0/1.3, CK / CKMB /
   Troponin-T:71/4/0.18, ALT / AST:[**1-2**], Alk Phos / T Bili:64/0.9,
   Albumin:3.4 g/dL, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   79 yo female admit with PE--has had reasonable improvement in
   oxygenation with supportive treatment.
   1) PULMONARY EMBOLISM (PE), ACUTE-
   -Continue with anticoagulation
   -Will maintain O2 at 2 lpm
   -Continue on telemetry
   2)Lung Cancer-
   -Further care per the oncology team
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-10-26**] 04:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes